US08071581B2
Step 3: (8-Fluoro-quinolin-6-yl)-acetic acid
0.5 g of (8-fluoro-quinolin-6-yl)-acetic acid tert-butyl ester with 2.0 ml of 4N aq. sodium hydroxide solution was heated at 90° C. for 3 h. After cooling the reaction mixture was extracted with ethyl acetate. The aqueous layer was made just acidic with acetic acid, filtered to afford the title compound as an off white solid (0.24 g, 61%). 1H NMR (300 MHz, DMSO-d6) δ 8.91˜8.93 (m, 1H), 8.37˜8.40 (m, 1H), 7.51˜7.69 (m, 3H), 3.80 (s, 2H); ES-MS m/z: 206.2 (M++1).

reactant | (8-fluoro-quinolin-6-yl)-acetic acid tert-butyl ester | 0.5 g | C(C)(C)(C)OC(CC=1C=C2C=CC=NC2=C(C1)F)=O | C15H16FNO2
reactant | sodium hydroxide | 4N, 2.0 ml | [OH-].[Na+]
product | (8-Fluoro-quinolin-6-yl)-acetic acid | FC=1C=C(C=C2C=CC=NC12)CC(=O)O | C11H8FNO2
